US03979516
Preparation of 5,6-bis(4-dimethylaminophenyl)-3-(4-hydroxypiperidino)-1,2,4-triazine
Three grams of 5,6-bis(4-dimethylaminophenyl)-3-methylthio-1,2,4-triazine and 1.5 g. of 4-hydroxypiperidine were heated at about 150°C. for 12 hours. The reaction mixture was treated with water and the product was collected. The product was dissolved in benzene and the solution was slowly added to n-hexane. The solid which precipitated was recrystallized from ethyl acetate to yield 1.6 g. of 5,6-bis(4-dimethylaminophenyl)-3-(4-hydroxypiperidine-1,2,4-triazine, mp about 186°-188°C.

reactant | 5,6-bis(4-dimethylaminophenyl)-3-methylthio-1,2,4-triazine | Three grams | CN(C1=CC=C(C=C1)C=1N=C(N=NC1C1=CC=C(C=C1)N(C)C)SC)C | C20H23N5S
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | 4-hydroxypiperidine 1,2,4-triazine | OC1CCNCC1.N1=NC=NC=C1
solvent | water | O | H2O
product | 5,6-bis(4-dimethylaminophenyl)-3-(4-hydroxypiperidino)-1,2,4-triazine | CN(C1=CC=C(C=C1)C=1N=C(N=NC1C1=CC=C(C=C1)N(C)C)N1CCC(CC1)O)C | C24H30N6O
